US07285569B2
5-Ethyl-2-(1-hydroxy-ethyl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
A mixture of 5,6-diamino-1-ethyl-3,3-dimethyl-1,3-dihydro-indol-2-one (10 g, 46 mmol), 2-hydroxy-propionic acid (9.13 g, 91.2 mmol) in HCl (100 mL, 4N) was refluxed for 16 h. After cooling, neutralization with aqueous ammonia (25%) and stirring for 1.5 h the precipitate was filtered and dried in vacuo at 50° C. yielding 12.29 g (95%) of a grey solid.

reactant | 5,6-diamino-1-ethyl-3,3-dimethyl-1,3-dihydro-indol-2-one | 46 mmol, 10 g | NC=1C=C2C(C(N(C2=CC1N)CC)=O)(C)C | C12H17N3O
reactant | 2-hydroxy-propionic acid | 91.2 mmol, 9.13 g | OC(C(=O)O)C | C3H6O3
reactant | ammonia | N | H3N
solvent | HCl | 4N, 100 mL | Cl | ClH
product | 5-Ethyl-2-(1-hydroxy-ethyl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 12.29 g, 95% | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C(C)O)(C)C)=O | C15H19N3O2
